US07592143B2
7,8-Bis-(1,1-dimethyl-allyloxy)-2-phenyl-chromen-4-one
To a solution of 7,8-bis-(1,1-dimethyl-prop-2-ynyloxy)-2-phenyl-chromen-4-one (98 mg, 0.254 mmol) in methanol (20 mL) was added Lindlar's catalyst (Pd, 5 wt % on calcium carbonate, 25 mg) under argon. The mixture was stirred at room temperature for 50 min, then it was filtered through a syringe filter and the solvent was evaporated. The residue was purified by column chromatography (SiO2, EtOAc:hexanes/10-25%) to give the product as a white solid (72 mg, 73%): 1H NMR (CDCl3, 300 MHz) δ 7.98 (m, 2H), 7.81 (dd, J=0.9, 9.0 Hz, 1H), 7.52 (m, 3H), 7.16 (dd, J=0.6, 9.0 Hz, 1H), 6.75 (d, J=0.6 Hz, 1H), 6.22 (m, 2H), 5.24-5.12 (m, 3H), 4.98 (dd, J=1.2, 10.2 Hz, 1H), 1.56 (s, 6H), 1.55 (s, 6H); 13C NMR (CDCl3, 75 MHz) δ 178.1, 163.0, 154.9, 152.5, 136.0, 132.0, 131.2, 128.8, 126.6, 120.5, 119.6, 117.5, 107.3, 85.2, 74.9, 74.1, 73.9, 30.7, 29.8.

reactant | 7,8-bis-(1,1-dimethyl-prop-2-ynyloxy)-2-phenyl-chromen-4-one | 0.254 mmol, 98 mg | CC(C#C)(OC1=CC=C2C(C=C(OC2=C1OC(C#C)(C)C)C1=CC=CC=C1)=O)C | C25H22O4
solvent | methanol | 20 mL | CO | CH4O
catalyst | Lindlar's catalyst | 25 mg | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
product | 7,8-Bis-(1,1-dimethyl-allyloxy)-2-phenyl-chromen-4-one | 72 mg, 73% | CC(C=C)(OC1=CC=C2C(C=C(OC2=C1OC(C=C)(C)C)C1=CC=CC=C1)=O)C | C25H26O4
